US08809333B2
To a solution of ethyl (2R)-2-methyl-2-(methylsulfonyl)-4-[4-(pyrazin-2-yl)-1H-pyrazol-1-yl]butanoate (0.32 g, 0.908 mmol) in THF-H2O (20 mL:10 mL) was added lithium hydroxide (0.217 g, 9.08 mmol, 10 eq). The mixture was allowed to stir at room temperature overnight. The mixture was then acidified with 1M HCl and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated to dryness. The solid was taken up in 2-methyltetrahydrofuran (20 mL). N-methyl morpholine (0.185 g, 1.81 mmol, 1.4 eq) was added, followed by CDMT (0.273 g, 1.55 mmol, 1.2 eq). The reaction mixture was allowed to stir for one hour. O-Tetrahydro-2H-pyran-2-yl-hydroxylamine (0.182 g, 1.55 mmol, 1.2 eq) was added, and the reaction mixture was allowed to stir for an additional two hours. Water (20 mL) was added, and the solution was extracted with 2-MeTHF (100 mL). The aqueous layer was re-extracted with 2-MeTHF (150 mL) and the combined organic layers were washed with brine. The organic layer was dried over sodium sulfate, filtered, and concentrated. The crude was purified by flash chromatography, eluting with 0-10% MeOH/EtOAC to give (2R)-2-methyl-2-(methylsulfonyl)-4-[4-(pyrazin-2-yl)-1H-pyrazol-1-yl]-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (182 mg, 33% yield). LC-MS M−H 424.1.

reactant | ethyl (2R)-2-methyl-2-(methylsulfonyl)-4-[4-(pyrazin-2-yl)-1H-pyrazol-1-yl]butanoate | 0.908 mmol, 0.32 g | C[C@](C(=O)OCC)(CCN1N=CC(=C1)C1=NC=CN=C1)S(=O)(=O)C | C15H20N4O4S
reactant | lithium hydroxide | 9.08 mmol, 0.217 g, 10 eq | [OH-].[Li+]
reactant | HCl | 1M | Cl | ClH
reactant | N-methyl morpholine | 1.81 mmol, 0.185 g, 1.4 eq | CN1CCOCC1 | C5H11NO
reactant | O-Tetrahydro-2H-pyran-2-yl-hydroxylamine | 1.55 mmol, 0.182 g, 1.2 eq | O1C(CCCC1)ON | C5H11NO2
solvent | THF H2O | 20 mL | C1CCOC1.O
solvent | Water | 20 mL | O | H2O
product | (2R)-2-methyl-2-(methylsulfonyl)-4-[4-(pyrazin-2-yl)-1H-pyrazol-1-yl]-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 182 mg, 33% yield | C[C@](C(=O)NOC1OCCCC1)(CCN1N=CC(=C1)C1=NC=CN=C1)S(=O)(=O)C | C18H25N5O5S
